US07179941B2
d) N-{3-[3-(2-Chloro-4,5-difluorobenzoyl)ureido]-4-methoxyphenyl}acetamide
0.10 g (0.3 mmol) of 1-(2-chloro-4,5-difluorobenzoyl)-3-(5-amino-2-methoxyphenyl)urea was admixed with 1 ml of N-methylpyrrolidone, 0.11 g (0.3 mmol) of acetic anhydride and stirred at room temperature for 2 hours. The mixture was diluted with 20 ml of H2O and extracted three times with 20 ml of ethyl acetate each time. The combined organic phase was washed with H2O, concentrated and dried. The crude product was purified by preparative HPLC (column: Waters Xterra™ MS C18, 5 μm, 30×100 mm, eluent: A: H2O+0.2% trifluoroacetic acid, B: acetonitrile, gradient: 2.5 minutes 90% A/10% B to 17.5 minutes 10% A/90% B). 0.03 g of the desired product was obtained.

reactant | 1-(2-chloro-4,5-difluorobenzoyl)-3-(5-amino-2-methoxyphenyl)urea | 0.3 mmol, 0.10 g | ClC1=C(C(=O)NC(=O)NC2=C(C=CC(=C2)N)OC)C=C(C(=C1)F)F | C15H12ClF2N3O3
reactant | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
reactant | acetic anhydride | 0.3 mmol, 0.11 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | H2O | 20 ml | O | H2O
product | N-{3-[3-(2-Chloro-4,5-difluorobenzoyl)ureido]-4-methoxyphenyl}acetamide | 0.03 g | ClC1=C(C(=O)NC(NC=2C=C(C=CC2OC)NC(C)=O)=O)C=C(C(=C1)F)F | C17H14ClF2N3O4
